US06723735B1
2-Amino-5-bromo-3-nitropyridine (21.8 g, 0.1 mol) was ground to a fine powder using a mortar and pestle and then suspended in 6M hydrochloric acid (250 ml). This mixture was cooled to 0° C. and treated with solid NaNO2 (8.3 g, 0.12 mol) at such a rate that the internal temperature remained below 5° C. (ca. 45 minutes). Following the addition, stirring at 0° C. was continued for a further 1 hour. To the resultant suspension was added a solution of freshly prepared copper(I) chloride (12.9 g. 0.13 mol) in degassed 38% hydrochloric acid and the reaction stirred to ambient temperature over 90 minutes before heating the reaction to 70° C. to complete the decomposition of the diazonium salt. The reaction was cooled, diluted with water (750 ml) and then air was passed through the mixture for 30 minutes before adding 0.88 ammonia to ca. pH 9. The blue mixture was shaken with diethyl ether (600 ml) and any remaining solids removed by filtration. The organic layer was then washed with 5% aqueous ammonia, water, brine and dried over anhydrous sodium sulphate. This solution was filtered and then pre-adsorbed on to silica. Purification by dry flash chromatography eluting with isohexane and a gradient of ethyl acetate from 5% to 20% gave 5-bromo-2-chloro-3-nitropyridine as a pale yellow solid (13.1 g, 55%) followed by recovered starting material (6.4 g); δH (400 MHz, CDCl3) 8.36 (1H, d, J 1, H-6), 8.69 (1H, d, J 1, H-4).

reactant | 2-Amino-5-bromo-3-nitropyridine | 0.1 mol, 21.8 g | NC1=NC=C(C=C1[N+](=O)[O-])Br | C5H4BrN3O2
reactant | NaNO2 | 0.12 mol, 8.3 g | N(=O)[O-].[Na+]
reactant | ammonia | N | H3N
reactant | diethyl ether | 600 ml | C(C)OCC | C4H10O
reactant | hydrochloric acid | 6M, 250 ml | Cl | ClH
solvent | water | 750 ml | O | H2O
catalyst | copper(I) chloride | 0.13 mol, 12.9 g | [Cu]Cl
product | 5-bromo-2-chloro-3-nitropyridine | 13.1 g, 55% | BrC=1C=C(C(=NC1)Cl)[N+](=O)[O-] | C5H2BrClN2O2
